* Z:\mnt\spice-netlists\LTC3728.asc
XU1 N023 N013 N015 N017 N027 NC_01 0 N020 0 N025 N021 N018 N016 N014 N024 N004 N009 N006 N012 0 N001 NC_02 N011 N002 N005 N008 N003 N026 LTC3728
M§Q1 IN N004 N009 N009 HAT2168H
M§Q2 N009 N012 0 0 HAT2165H
M§Q3 IN N003 N008 N008 HAT2168H
M§Q4 N008 N011 0 0 HAT2165H
C1 N005 N008 .1µ
D1 N001 N005 CMDSH2-3
C2 N006 N009 .1µ
D2 N001 N006 CMDSH2-3
L1 N008 N007 2.2µ
C3 OUT1 0 470µ
C4 OUT1 0 47µ
R1 OUT1 N017 43.2K
R2 N017 0 20K
C5 OUT1 N017 33p
C6 N020 0 100p
R3 N020 N019 30K
C7 N023 0 .001µ
C8 N024 0 .001µ
R4 N025 N027 10K
R5 N027 0 5.76K
R6 N022 N021 15K
C9 N021 0 100p
L2 N009 N010 1.0µ
C10 OUT2 0 470µ
C11 OUT2 0 47µ
R7 OUT2 N018 10K
R8 N018 0 20K
C12 N014 N016 .001µ
C13 N001 0 4.7µ
C14 N001 0 2.2µ
C15 N002 0 .1µ
R9 N002 IN 10
V1 IN 0 12
D3 0 N008 MBRS340
D4 0 N009 MBRS340
R10 N001 N026 100K
C16 IN 0 22µ
R11 OUT2 N016 10
R12 N010 N014 10
R13 N013 N007 10
R14 N015 OUT1 10
R15 IN N024 1Meg
R16 N023 IN 1Meg
C17 N013 N015 .001µ
R17 N010 OUT2 5m
R18 N007 OUT1 5m
C18 OUT2 N018 68p
C19 N019 0 .001µ
C20 N022 0 1000p
Rload2 OUT2 0 .12
Rload1 OUT1 0 .25
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 750u startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
* 2.5V @ 10A
* 1.2V @ 10A
* LTC3728 synchronous step-down DC/DC converter\nInput 12V   Outputs: 2.5V @ 10A and 1.2V @ 10A, Fswitch = 400kHz
* Notes:\n1. Small value used for RUN/SS capacitors to reduce simulation time.\n    The typical value for actual applications is 0.1u.\n2. More output capacitors may be needed to meet load step and \n    output voltage requirements.
.lib LTC3728.sub
.backanno
.end
