* Z:\mnt\spice-netlists\LTC3731.asc
XU1 MP_01 NC_02 N006 0 N031 N029 N027 N024 0 N010 N011 N017 N020 N032 N030 N021 N019 MP_03 MP_04 MP_05 N023 N022 N025 N028 N016 0 N009 N002 N014 N012 N013 N007 N004 N005 N003 LTC3731
C1 IN 0 270µ
C2 IN 0 10µ
R1 N002 N001 1
C3 N002 0 1µ
M§Q1 IN N004 N007 N007 HAT2168H
M§Q2 N007 N009 0 0 HAT2165H
M§Q3 IN N012 N014 N014 HAT2168H
M§Q4 N014 N016 0 0 HAT2165H
M§Q5 IN N022 N025 N025 HAT2168H
M§Q6 N025 N028 0 0 HAT2165H
D1 0 N007 MBRS340
D2 0 N014 MBRS340
D3 0 N025 MBRS340
C4 N017 N020 2200p
C5 N010 N011 2200p
C6 N030 N032 2200p
R2 N010 N008 10
R3 N011 OUT 10
R4 N017 N015 10
R5 N020 OUT 10
R6 N030 N026 10
R7 N032 OUT 10
C7 N005 N007 .22µ
C8 N013 N014 .22µ
C9 N023 N025 .22µ
D4 N001 N005 BAT54
D5 N001 N013 BAT54
D6 N001 N023 BAT54
V1 IN 0 12
R8 N002 N006 8.06K
R9 N006 0 2.43K
C10 N006 0 .01µ
R10 N027 N024 12.1K
R11 N024 0 8.06K
C11 N021 0 .00005µ
C12 N019 N018 2200p
C13 N019 0 100p
R12 N018 0 4.75K
L1 N007 N008 0.36µ
L2 N014 N015 0.36µ
L3 N025 N026 0.36µ
V2 N001 0 5
C14 N027 N024 330p
C15 N024 0 47p
R13 N031 OUT 10
R14 N029 0 10
R15 N002 N003 10K
C16 OUT 0 100µ
R16 N008 OUT .003
R17 N015 OUT .003
R18 N026 OUT .003
C17 OUT 0 470µ
C18 N002 0 4.7µ
Rload OUT 0 .05
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran .4m startup
* LTC3731CUH- Three-phase high efficiency DC/DC converter\nInput: 12V     Output: 1.5V, Component value selected based on DC558 demo circuit
* Note:\n RUN/SS caps is reduced to speed up simulation speed signficantly.\n More output caps might be needed to meet certain load transient requirement.
* 1.5V@30A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
.lib LTC3731.sub
.backanno
.end
