* Z:\mnt\spice-netlists\LTC3770.asc
M§Q1 IN N003 N004 N004 Si4884DY
M§Q2 N004 N018 0 0 Si4874DY
C1 N004 N006 .22µ
R1 IN N001 10
C2 N005 0 2200p
R2 N019 0 82K
C3 N009 0 1000p
C4 N010 0 100p
R3 N010 N009 10K
L1 N004 OUT 1.8µ
V1 IN 0 12
R4 N016 0 30.1K
R5 OUT N016 95.3K
C5 0 N001 .1µ
C6 IN 0 22µ
C7 OUT N016 100p
R6 N017 N014 10K
R7 IN N002 10K
C8 OUT 0 180µ
D1 N008 N006 CMDSH2-3
XU1 N007 N016 N010 0 NC_01 NC_02 N020 N014 N017 N019 N005 N012 NC_03 N001 N001 MP_04 0 MP_05 N008 N008 N018 0 0 N004 N004 N003 N006 N013 0 N002 OUT N015 LTC3770
R8 N008 N013 23.2K
R9 N013 0 26.7K
C9 0 N008 10µ
R10 N008 N015 100K
R11 N002 N007 1K
R12 N007 0 1.5K
C10 N011 0 .01µ
C11 N012 0 1000p
R13 N012 N011 10K
R14 N020 0 133K
C12 OUT 0 22µ
R15 OUT 0 0.25
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1.2m startup
* LTC3770 - No Rsense, Synchronous Step-Down DC/DC Converter \nInput: 12V      Output: 2.5V at 10A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
.lib LTC3770.sub
.backanno
.end
