* Z:\mnt\spice-netlists\LTC3816.asc
XU1 N001 N001 N002 NC_01 0 OUT N022 N021 N020 N019 NC_02 N018 0 0 0 0 N016 N017 0 NC_03 0 0 N010 N001 NC_04 IN N004 N003 N007 N006 N009 N011 NC_05 N012 N013 OUT N014 N015 0 LTC3816
C1 N019 0 0.47n
C2 N018 0 22p
C3 N021 N022 22p
C4 N020 N021 1000p
R1 0 N002 470
V1 IN 0 12
C5 0 N001 4.7µ
M§Q1 IN N003 N007 N007 RJK0305DPB
D1 N001 N004 CMDSH2-3
C6 N004 N007 .1µ
M§Q2 N007 N010 0 0 RJK0301DPB
L1 N007 N008 .33µ
R2 N012 N008 511
C7 N012 OUT 1p
R3 N013 OUT 3.16K
R4 N014 N008 3.32K
C8 N014 N015 0.01p
R5 N014 N015 6.98K
C9 OUT 0 330µ X4
C10 OUT 0 10µ X20
M§Q3 N007 N010 0 0 RJK0301DPB
R6 OUT N008 1m
V2 N005 0 3.3
R7 N005 N006 1.91K
R8 N005 N009 1.91K
R9 N005 N011 169
R10 N005 0 1K
R11 N005 0 1K
R12 N005 0 1K
R13 N005 0 1K
R14 N005 N016 1K
R15 N005 N017 1K
R16 N005 0 1K
Rload OUT 0 0.1
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1.1m startup
* LTC3816 - Single-Phase Wide VIN Range DC/DC Controller for Intel IMVP-6/IMVP-6.5 CPUs\nInput: 12V, Output: 0.9V @25A, Rdroop: 2.1mohm, Fswitch = 400kHz
* Notes:\n1. Small value are used for TRACK/SS capacitors to reduce simulation time.\n    The typical value for actual applications will vary from 1nF to 100nF.\n2. More output capacitors may be needed to meet load step and \n    output voltage requirements.\n3. This design example is for Intel Core Duo porcessor.\n4. If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n    It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n    Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n    Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n    Copyright © 2010 Linear Technology Inc. All rights reserved.
.lib LTC3816.sub
.backanno
.end
