* Z:\mnt\spice-netlists\LTC3823.asc
M§Q1 IN N007 N008 N008 Si4884DY
M§Q2 N008 N015 0 0 Si4874DY
C1 N008 N011 .22µ
R1 IN N002 10
C2 P001 0 2.2n
R2 N018 0 66.5K
C3 N009 0 1000p
C4 N010 0 100p
R3 N010 N009 10K
L1 N008 OUT 1.0µ
V1 IN 0 12
C5 OUT 0 22µ
R4 N016 0 5.11K
R5 N014 N016 16.2K
C6 0 N002 .1µ
C7 IN 0 22µ
C8 N014 N016 220p
R6 IN N003 100K
C9 OUT 0 180µ
D1 N001 N011 CMDSH2-3
R7 N001 N004 23.2K
R8 N004 0 26.7K
C10 0 N001 10µ
R9 N001 N006 100K
R10 N001 N005 39K
R11 N005 0 11K
C11 N012 0 .01µ
C12 N013 0 1000p
R12 N013 N012 10K
XU1 N005 N016 N010 0 N018 N014 MP_01 N017 N019 MP_02 P001 N013 NC_03 N002 N002 MP_04 0 MP_05 N001 N001 N015 0 0 N008 N008 N007 N011 N004 0 N003 OUT N006 LTC3823
R13 OUT N017 100
R14 0 N019 100
Rload OUT 0 0.25
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1.2m startup
* LTC3823 - No Rsense, Synchronous Step-Down DC/DC Converter With Differential Output Sensing \nVout: 2.5V at 10A, Vin: 12V
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2008 Linear Technology Inc. All rights reserved.
.lib LTC3823.sub
.backanno
.end
