* Z:\mnt\spice-netlists\LTC3826.asc
C1 N005 N004 .1µ
L1 N004 N008 3.2µ
C2 N012 N014 1000p
R1 N016 0 68.1K
R2 OUT1 N016 215K
C3 N018 0 680p
C4 N022 0 100p
R3 N019 N018 15K
V1 IN 0 18
C5 N006 N007 .1µ
R4 N009 OUT2 0.015
C6 N013 N015 1000p
R5 N017 0 22.1K
R6 OUT2 N017 215K
C7 N021 0 470p
C8 N023 0 100p
R7 N020 N021 15K
R8 N008 OUT1 0.012
D1 N001 N006 PMEG4005AEA
D2 N001 N005 PMEG4005AEA
C9 IN 0 10µ
C10 N019 0 33p
C11 N020 0 33p
R9 N012 N008 10
R10 N014 OUT1 10
R11 N009 N013 10
R12 OUT2 N015 10
L2 N007 N009 7.2µ
C12 IN 0 10µ
D3 0 N004 MBRS140
D4 0 N007 MBRS140
C13 OUT2 0 10µ
C14 OUT1 0 10µ
C15 N001 0 1µ
M§Q1 IN N003 N007 N007 Si4840DY
M§Q2 N007 N011 0 0 Si4840DY
M§Q3 IN N002 N004 N004 Si4840DY
M§Q4 N004 N010 0 0 Si4840DY
XU1 N014 NC_01 0 NC_02 0 0 N001 N001 N015 N013 N017 N020 N023 NC_03 N003 N007 N006 N011 N001 NC_04 0 IN N010 N005 N004 N002 NC_05 NC_06 N022 N019 N016 N012 LTC3826
C16 OUT1 N016 68p
C17 OUT2 N017 68p
C18 IN 0 47µ
Rload1 OUT1 0 .66
Rload2 OUT2 0 2.4
C19 OUT2 0 150µ
C20 OUT1 0 150µ
C21 N001 0 4.7µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
* CDEP105-3R2M
* LTC3826 - Dual Synchronous, Low IQ Step-Down DC/DC Regulator\nInput: 10-32V                 Outputs: 3.3V@5A and 8.5V@3.5A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2008 Linear Technology Inc. All rights reserved.
.tran 700u startup
* CDEP105-7R2M
.lib LTC3826.sub
.backanno
.end
