* Z:\mnt\spice-netlists\LTC3832.asc
L1 N002 OUT .6µ
R1 OUT N011 6.04K
R2 N011 0 4.02K
C1 IN 0 220µ
R3 IN N005 10
C2 N005 0 2.2µ
C3 N002 N001 .2µ
D1 IN N001 MBR0520L
C4 OUT 0 180µ
C5 0 N012 3300p
R4 N013 N012 18.2K
R5 IN N003 14K
C6 N007 0 .01µ
V1 IN 0 3.3
C7 OUT N011 470p
C8 0 N013 100p
M§Q1 N002 N008 0 0 Si4864DY
M§Q2 IN N004 N002 N002 Si4866DY
D2 0 N002 MBRS340
XU1 N004 N001 0 0 NC_01 N011 NC_02 N010 N007 N013 N009 N003 N006 N005 IN N008 LTC3832
C9 IN N003 .022µ
R6 N002 N006 1K
C10 IN 0 10µ
R7 N010 N005 1K
R8 0 N009 130K
Rload OUT 0 .1
C11 OUT 0 10µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
* Panasonic SP-CAP\nEEFUE0G181R
* TOKO \nFDH-1055-R60M
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
* LTC3832 - 15A 400kHz Synchronous Buck Converter\nInput: 3.3V      Output: 1.5V@15A
.tran 2m startup
.lib LTC3832.sub
.backanno
.end
