* Z:\mnt\spice-netlists\LTC3835.asc
V1 IN 0 12
C1 N003 N004 .1µ
R1 N005 OUT 0.012
C2 N007 N009 1000p
R2 N012 0 68.1K
R3 OUT N012 215K
C3 N011 0 100p
R4 N011 N010 10k
D1 N001 N003 PMEG4005AEA
C4 N010 0 1000p
R5 N005 N007 10
R6 OUT N009 10
L1 N004 N005 3.3µ
C5 IN 0 10µ
D2 0 N004 MBRS140
C6 OUT 0 4.7µ
C7 OUT 0 330µ
C8 IN 0 22µ
C9 N001 0 4.7µ
C10 N001 0 1µ
M§Q1 IN N002 N004 N004 Si4840DY
M§Q2 N004 N006 0 0 Si4840DY
C11 0 N008 .001µ
XU1 NC_01 0 N011 N008 N012 0 0 N006 N001 NC_02 IN N004 N002 N003 NC_03 N009 N007 NC_04 0 NC_05 LTC3835
Rload OUT 0 1
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
* 3.3V@5A
* LTC3835 - Single 5A High Frequency Synchronous Buck Converter\nInput: 4.5-32V   Outputs: 3.3V@5A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2007 Linear Technology Inc. All rights reserved.
.tran 1m startup
* CDEP105-3R2MC
.lib LTC3835.sub
.backanno
.end
