* Z:\mnt\spice-netlists\LTC3850.asc
M§Q1 N001 N004 N006 N006 HAT2168H
M§Q2 N006 N010 0 0 HAT2165H
C1 N006 N007 .1µ
D1 N003 N007 1N5817
C2 N003 0 4.7µ
L1 N006 OUT1 1.2µ
C3 N012 OUT1 .1µ
R1 N014 0 20K
V1 N001 0 12
M§Q3 N001 N005 N009 N009 HAT2168H
M§Q4 N009 N011 0 0 HAT2165H
C4 N009 N008 .1µ
D2 N003 N008 1N5817
C5 N013 OUT2 .1µ
R2 N015 0 20K
R3 OUT2 N015 10.0K
L2 N009 OUT2 470n
R4 N003 N024 100K
XU1 N020 N012 OUT1 N014 N025 0 N023 N017 0 N022 N018 N015 OUT2 N013 N021 N005 N009 N008 N011 0 N003 NC_01 N010 N002 N007 N006 N004 N024 NC_02 LTC3850
C6 OUT1 0 47µ
R5 N003 N025 10K
R6 0 N025 3.16K
C7 N016 0 .001µ
C8 N017 0 100p
R7 N017 N016 10K
C9 N020 0 100p
C10 N018 0 100p
C11 N019 0 .001µ
R8 N018 N019 5.62K
C12 N021 0 100p
R9 N006 N012 4.02K
R10 N012 OUT1 5.62K
R11 OUT1 N014 43.2K
C13 OUT2 0 47µ
R12 N009 N013 1.65K
R13 OUT2 N013 9.09K
C14 OUT1 0 330µ
C15 OUT2 0 330µ
C16 N002 0 0.1µ
R14 N002 N001 10
Rload2 OUT2 0 0.12
Rload1 OUT1 0 0.25
C17 N001 0 22µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 250u startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2007 Linear Technology Inc. All rights reserved.
* 2.5V @ 10A
* 1.2V @ 10A
* LTC3850 synchronous step-down DC/DC converter\nInput: 12V   Outputs: 2.5V @ 10A and 1.2V @ 10A, Fswitch = 500kHz
* Notes:\n1. Small value are used for TRACK/SS capacitors to reduce simulation time.\n    The typical value for actual applications will vary from 10nF to 100nF.\n2. More output capacitors may be needed to meet load step and \n    output voltage requirements.
.lib LTC3850.sub
.backanno
.end
