* Z:\mnt\spice-netlists\LTC3855.asc
XU1 P001 N020 N016 0 N017 N021 N023 N013 N015 OUT2 0 N018 NC_01 NC_02 NC_03 NC_04 NC_05 MP_06 N008 N003 N005 0 N011 NC_07 N001 IN N010 0 N004 N002 N007 NC_08 NC_09 0 N025 NC_10 N024 NC_11 N012 N014 LTC3855
M§Q3 IN N003 N008 N008 RJK0305DPB
M§Q4 N008 N011 0 0 RJK0301DPB
L2 N008 N009 .4µ
C1 0 N001 4.7µ
C2 N005 N008 .1µ
D1 N001 N005 CMDSH2-3
R6 N025 0 100K
M§Q1 IN N002 N007 N007 RJK0305DPB
M§Q2 N007 N010 0 0 RJK0301DPB
L1 N007 N006 .4µ
C7 N004 N007 .1µ
D2 N001 N004 CMDSH2-3
C9 N012 N014 1n
R7 N006 N012 10
C11 P001 0 1n
R14 N016 0 10K
R15 N016 OUT1 20K
V1 IN 0 12
R8 N014 OUT1 10
Rsense1 N006 OUT1 2m
Cout2 OUT1 0 100µ
Cout1 OUT1 0 330µ
Rload1 OUT1 0 106m
C10 N020 0 150p
C12 N020 N019 1n
R9 N019 0 18.2K
C3 N013 N015 1n
R1 N009 N013 10
R2 OUT2 N015 10
Rsense2 OUT2 N009 2m
Cout3 OUT2 0 100µ
C4 OUT2 0 330µ
Rload2 OUT2 0 71m
R4 N018 N017 10K
R5 0 N017 10K
C5 0 N023 1n
C6 N021 0 150p
C8 N022 N021 1.5n
R10 N022 0 5.49K
C13 IN 0 10µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 750u startup
* LTC3855 - Dual, Multiphase Synchronous DC/DC Controller with Differential Remote Sense\nInput: 4.5V-14V     Outputs: 1.8V @ 17A and 1.2V @ 17A, Fsw = 400kHz
* 1.8V @ 17A
* 1.2V @ 17A
* Notes:\n   In the actual application, a 100 Ohm / 1nF Rsense filter may be required instead of 10 Ohm / 1nF to counter\n   effects of Rsense ESL.  Refer to the datasheet for details.\n \n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2011 Linear Technology Inc. All rights reserved.
.lib LTC3855.sub
.backanno
.end
