* Z:\mnt\spice-netlists\LTC3856.asc
V1 IN 0 12
C1 N001 0 4.7µ
M§Q1 IN N003 N007 N007 RJK0305DPB m=2
M§Q2 N007 N009 0 0 RJK0301DPB m=2
C2 N005 N007 .1µ
D1 N001 N005 CMDSH2-3
L1 N007 N008 .22µ
R1 N008 OUT 1m
C3 N010 N011 1p
XU1 N006 N002 N010 N011 MP_01 N019 N023 N017 0 N021 NC_02 NC_03 N020 N022 N025 0 N024 N012 NC_04 0 N004 N015 N013 N014 MP_05 0 N018 NC_06 N001 IN N009 0 N005 MP_07 N003 N007 NC_08 NC_09 LTC3856
R2 N008 N010 200
R3 OUT N011 200
M§Q3 IN N013 N015 N015 RJK0305DPB m=2
M§Q4 N015 N018 0 0 RJK0301DPB m=2
C4 N014 N015 .1µ
D2 N001 N014 CMDSH2-3
L2 N015 N016 .22µ
R4 N016 OUT 1m
C5 N020 N022 1p
R5 N016 N020 200
R6 OUT N022 200
R7 N006 0 100K
R8 OUT N025 1µ
R9 N021 N025 49.9
C6 N019 0 .001µ
C7 N017 0 1500p
R10 N024 N023 30.1K
R11 N023 0 20K
R12 IN N002 80K
R13 N002 0 40K
C8 OUT 0 330µ x6
R14 N001 N004 100K
C9 OUT 0 100µ x4
C10 IN 0 22µ x4
R15 N012 0 49.9K
I1 OUT 0 PWL(600u 0 601u 25 700u 25 701u 0)
Rload OUT 0 60
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 750u startup
* Notes:\n 1. Small value are used for TRACK/SS capacitors to reduce simulation time.\n     The typical value for actual applications will vary from 10nF to 100nF.\n 2. More output capacitors may be needed to meet load step and \n     output voltage requirements.\n 3. For AVP, change R8 to be 100ohm, and adjust R9 for desired Rdroop.  Redo the compensation if necessary.\n 4. For stage shedding, connecting the Mode pin to INTVCC, and the threshold is ajusted through R15.\n 5. If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n    It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n    Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n    Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n    Copyright © 2011 Linear Technology Inc. All rights reserved.
* LTC3856 - 2-Phase Synchronous Step-Down DC/DC Controller with Diffamp\nInput: 12V, Output: 1.5V @ 50A, Fswitch = 400kHz
* PWL(700u 0 701u 25 800u 25 801u 0)
.lib LTC3856.sub
.backanno
.end
